US06914062B2
1) N-cyclopentyl-O-tert-butyldimethylsilylhydroxylamine
Imidazole (882 mg) and tert-butylmethylsilyl chloride (903 mg) were added to N-cyclopentylhydroxylamine (650 mg, 6.43 mmol) in dimethylformamide (10 ml). The mixture was stirred at room temperature for 3 hours. After diluting the mixture with ethyl acetate and hexane, the organic layer was washed with water and saturated aqueous sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (hexane-ethyl acetate, 20:1 to 10:1) to give the title compound (722 mg) as a colorless oil.

reactant | Imidazole | 882 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylmethylsilyl chloride | 903 mg | C(C)(C)(C)[SiH](C)Cl | C5H13ClSi
reactant | N-cyclopentylhydroxylamine | 6.43 mmol, 650 mg | C1(CCCC1)NO | C5H11NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N-cyclopentyl-O-tert-butyldimethylsilylhydroxylamine | 722 mg | C1(CCCC1)NO[Si](C)(C)C(C)(C)C | C11H25NOSi
